US07279481B2
2-Fluoro-N-(3-{1-methyl-2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)benzamide (E119)
The title compound was prepared in 64% yield according to the general procedure for the preparation of amides (Method C) starting from 3-{1-methyl-2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}aniline (D21) and 2-fluorobenzoic acid.

reactant | 3-{1-methyl-2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}aniline | CC(CN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C)C=1C=C(N)C=CC1 | C23H28N4
reactant | 2-fluorobenzoic acid | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
product | 2-Fluoro-N-(3-{1-methyl-2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)benzamide | 64% yield | FC1=C(C(=O)NC2=CC(=CC=C2)C(CN2CCN(CC2)C2=C3C=CC(=NC3=CC=C2)C)C)C=CC=C1 | C30H31FN4O
